US05607956
5-Acetyl-2-ethyl-4-methyloxazole
3-Chloropentane-2,4-dione (46.5 g), propionamide (50 g) and propionic acid (151 g) were heated at 145° C. for 5 hours. The mixture was cooled to room temperature, then basified to pH 10 using 10M aqueous sodium hydroxide, and extracted with dichloromethane. The combined extracts were washed with brine, dried and the solvent removed to leave a brown oil which was purified by vacuum distillation, b.p. 70° C. at 2 mbar.

reactant | 3-Chloropentane-2,4-dione | 46.5 g | ClC(C(C)=O)C(C)=O | C5H7ClO2
reactant | propionamide | 50 g | C(CC)(=O)N | C3H7NO
reactant | propionic acid | 151 g | C(CC)(=O)O | C3H6O2
reactant | sodium hydroxide | 10M | [OH-].[Na+]
product | 5-Acetyl-2-ethyl-4-methyloxazole | C(C)(=O)C1=C(N=C(O1)CC)C | C8H11NO2
